US09260451B2
Production of 3-(phenylsulfenyl)-2-iodonaphtho[2,3-b]thiophene (Compound 1-4)
Under nitrogen atmosphere, n-butyl lithium (1.63 M (solvent: hexane), 0.46 ml, 0.75 mmol) was dripped into a THF solution (5 ml) of 3-(phenylsulfenyl)naphtho[2,3-b]thiophene (146 mg, 0.5 mmol) at 0° C. After the mixture was stirred for 1 hour at room temperature, iodine (190 mg, 0.75 mmol) was added thereto at 0° C. and the mixture was stirred for further 6 hours at room temperature. Subsequently an aqueous solution of Na2S2O5 was added thereto, and the mixture was extracted with CH2Cl2 (50 ml×3) and washed with saline (15 ml×3). The extract liquid was dried with magnesium sulfate, and concentrated. Purification was implemented by column chromatography (silica gel, CHCl3, Rf: 0.9), so that 3-(phenylsulfenyl)-2-iodonaphtho[2,3-b]thiophene was produced as an orange solid (138 mg, 0.3 mmol, yield: 66%).

reactant | n-butyl lithium | 0.75 mmol, 1.63 M, 0.46 ml | C(CCC)[Li]
reactant | 3-(phenylsulfenyl)naphtho[2,3-b]thiophene | 0.5 mmol, 146 mg | C1(=CC=CC=C1)SC=1C2=C(SC1)C=C1C=CC=CC1=C2 | C18H12S2
reactant | iodine | 0.75 mmol, 190 mg | II | I2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(phenylsulfenyl)-2-iodonaphtho[2,3-b]thiophene | 0.3 mmol, 138 mg, yield: 66% | C1(=CC=CC=C1)SC=1C2=C(SC1I)C=C1C=CC=CC1=C2 | C18H11IS2
